US20010006962A1
7-chloro-4-[4-[ethyl(2-elaidoyloxyethyl)amino]1-methylbutylamino]-quinoline
To a solution of 7-chloro-4-[4-[ethyl(2-hydroxyethyl)amino]1-methylbutylamino]quinoline (hydroxychloroquine) ( 3.17 g, 9.4 mmol) in 30 ml dichloromethane was added elaidic acid chloride (2.82 g, 9.4 mmol) and the reaction mixture was stirred at ambient temperature for 48 hours. A small amount of methanol was added, and the solvents were evaporated at high vacuum. The residue was repeatedly purified on a column of silica gel (first run: chloroform/methanol 9:1, second run: chloroform/methanol 95:5). Homogenous fractions were evaporated to give 1.18 g (21%) of the title compound. 1H NMR (CDCl3, 300 MHz) δ: 8.52(1H, d, ArH), 7.95 (1H, d, ArH), 7.75(1H, d, ArH), 7.35(1H, dd, ArH), 6.42(1H, d, ArH), 5.35(2H, m, CH═CH), 4.15(2H, t, CH2), 2.7(2H, t, CH2), 2.55(2H, q, CH2), 2.52(2H, t, CH2), 2.25(2H, t, CH2—COO), 1.95(4H, m, CH2—C═), 1.6(4H, m, CH2), 1.25(23H, m, CH2), 1.0(3H, t, CH3) , 0.85(3H, t, CH3).

reactant | 7-chloro-4-[4-[ethyl(2-hydroxyethyl)amino]1-methylbutylamino]quinoline | 9.4 mmol, 3.17 g | ClC1=CC=C2C(=CC=NC2=C1)NC(CCCN(CCO)CC)C | C18H26ClN3O
reactant | elaidic acid chloride | 9.4 mmol, 2.82 g | C(CCCCCCC\C=C\CCCCCCCC)(=O)Cl | C18H33ClO
reactant | methanol | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-chloro-4-[4-[ethyl(2-elaidoyloxyethyl)amino]1-methylbutylamino]-quinoline | 1.18 g, 21% | ClC1=CC=C2C(=CC=NC2=C1)NC(CCCN(CCOC(CCCCCCC\C=C\CCCCCCCC)=O)CC)C | C36H58ClN3O2
